US06255327B1
d) 4-(2-benzyloxyphenyl)-2-phenyl-1,3-oxazole
3.46 g of 2-benzyloxy-1-(2-benzyloxy-phenyl)-ethanone according to step (c) are refluxed with 2.95 g of acetamide and 0.9 ml of boron trifluoride etherate in 100 ml of anhydrous xylene over 20 hours. After the solution obtained has been cooled and washed with water it is dried over sodium sulphate, the solvent is distilled off in vacuo and the residue remaining is chromatographed on silica gel (toluene). In addition to re-isolated educt, 1 g (31%) of the target compound is isolated.

reactant | 2-benzyloxy-1-(2-benzyloxy-phenyl)-ethanone | 3.46 g | C(C1=CC=CC=C1)OCC(=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H20O3
reactant | acetamide | 2.95 g | C(C)(=O)N | C2H5NO
reactant | boron trifluoride etherate | 0.9 ml | B(F)(F)F.CCOCC
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(2-benzyloxyphenyl)-2-phenyl-1,3-oxazole | 1 g, 31% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N=C(OC1)C1=CC=CC=C1 | C22H17NO2
